US07888366B2
A solution of (1S,2S,5S)-(−)-myrtanol (1.0 g, 6.48 mmol) in dimethylformamide was added to a cooled (0° C.) slurry of sodium hydride (310 mg, 7.78 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature, stirred for 1 hour. Again, cooled (0° C.), then a solution of 2,6-difluorobenzonitrile (1.08 g, 7.78 mmol) in dimethylfomamide was added, stirred overnight at room temperature. The reaction mixture was poured on crushed-ice water, stirred. The reaction mixture was extracted with ethyl acetate, dried, filtered and concentrated. Purification by silica gel chromatography (1:1 hexanes in dichloromethane) yielded 1.36 g of 2-fluoro-5-((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-ylmethoxy)benzonitrile.

reactant | (1S,2S,5S)-(−)-myrtanol | 6.48 mmol, 1.0 g | CC1([C@H]2CC[C@@H]([C@@H]1C2)CO)C | C10H18O
reactant | sodium hydride | 7.78 mmol, 310 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | 7.78 mmol, 1.08 g | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-5-((1S,2S,5S)-6,6-dimethylbicyclo[3.1.1]hept-2-ylmethoxy)benzonitrile | 1.36 g | FC1=C(C#N)C=C(C=C1)OC[C@@H]1[C@H]2C([C@@H](CC1)C2)(C)C | C17H20FNO
